US07932272B2
4-(2-Propoxy-ethyl)-benzonitrile
1-Bromo-4-(2-propoxy-ethyl)-benzene described in Preparation Example 195 (790 mg, 3.2 mmol), zinc cyanide (380 mg, 3.2 mmol) and tetrakis(triphenylphosphine)palladium (190 mg, 0.16 mmol) were added to N-methylpyrrolidinone (10 mL), and this mixture was stirred at 125° C. for 4 hours. This reaction mixture was allowed to cool, and water (50 mL) and ethyl acetate (50 mL) were added thereto. This mixture solution was filtered through Celite pad. The organic layer was separated, then, washed with water (3 times) and brine, and then, concentrated in vacuo. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=8:1), and the title compound (120 mg, 0.62 mmol, 19%) was obtained as a colorless oil.

reactant | 1-Bromo-4-(2-propoxy-ethyl)-benzene | BrC1=CC=C(C=C1)CCOCCC | C11H15BrO
reactant | N-methylpyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
reactant | water | 50 mL | O | H2O
catalyst | zinc cyanide | 3.2 mmol, 380 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.16 mmol, 190 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-Propoxy-ethyl)-benzonitrile | 0.62 mmol, 120 mg, 19% | C(CC)OCCC1=CC=C(C#N)C=C1 | C12H15NO
